US04743685
(C) 1,4-Dihydro-5-hydroxy-4-oxo-N-(2-oxo-1-imidazolidinyl)-1-(phenylmethyl)-2-pyridineacetamide
4.99 ml (35.83 mmol) of triethylamine was added to a suspension of 9.29 g (35.83 mmol) of 1,4-dihydro-5-hydroxy-4-oxo-1-(phenylmethyl)-2-pyridineacetic acid, 0.28 g (1.79 mmol) of N-hydroxybenzotriazole, 0.22 g (1.79 mmol) of N-dimethylaminopyridine, 3.62 g (35.83 mmol) of N-aminoimidazolidinone and 8.13 g (39.41 mmol) of dicyclohexylcarbodiimide in 115 ml of dry dimethylformamide. Stirring was continued overnight at room temperature. The precipitated dicyclohexylurea was filtered off, washed with dimethylformamide, and the filtrate was evaporated in vacuo to leave a residue, which became crystalline by stirring with 110 ml of dichloromethane. The precipitate was collected by suction and dried in vacuo. To a suspension of this crude material in 65 ml of dry acetonitrile, 14.0 ml (71.6 mmol) of N-methyl-N-trimethylsilyltrifluoroacetamide was added. After having been stirred for 30 minutes at room temperature, the undissolved dicyclohexylurea was filtered off and the filtrate was evaporated in vacuo. The oily residue was boiled in 70 ml of methanol for 15 minutes and cooled. The precipitate was collected by suction, washed successively with methanol, methanol/ether (1:1) and ether and dried in vacuo. Yield: 8.7 g; sint. 242° C., melting point 260°-265° C. dec.

reactant | triethylamine | 35.83 mmol, 4.99 ml | C(C)N(CC)CC | C6H15N
reactant | 1,4-dihydro-5-hydroxy-4-oxo-1-(phenylmethyl)-2-pyridineacetic acid | 35.83 mmol, 9.29 g | OC=1C(C=C(N(C1)CC1=CC=CC=C1)CC(=O)O)=O | C14H13NO4
reactant | N-hydroxybenzotriazole | 1.79 mmol, 0.28 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-dimethylaminopyridine | 1.79 mmol, 0.22 g | CN(N1CC=CC=C1)C | C7H12N2
reactant | N-aminoimidazolidinone | 35.83 mmol, 3.62 g | NN1C(NCC1)=O | C3H7N3O
reactant | dicyclohexylcarbodiimide | 39.41 mmol, 8.13 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-methyl-N-trimethylsilyltrifluoroacetamide | 71.6 mmol, 14.0 ml | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
solvent | dimethylformamide | 115 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 65 ml | C(C)#N | C2H3N
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
product | 1,4-Dihydro-5-hydroxy-4-oxo-N-(2-oxo-1-imidazolidinyl)-1-(phenylmethyl)-2-pyridineacetamide | OC=1C(C=C(N(C1)CC1=CC=CC=C1)CC(=O)NN1C(NCC1)=O)=O | C17H18N4O4
